US07358248B2
(2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfinyl)-2-[2-(3-nitrophenyl)acetylamino]-propionic acid
Sodium perborate tetrahydrate (97 mg, 0.63 mmol) was added as a solid to a stirred solution of (2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfanyl)-2-[2-(3-nitrophenyl)-acetylamino]-propionic acid (330 mg, 0.58 mmol) in acetic acid (10 mL) at 40° C. This solution was stirred at 40° C. for 2 hours (HPLC control) and then diluted with ethyl acetate (50 mL), washed with water, brine (2×), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by trituration of the product with diethyl ether afforded the title compound as a light brown solid (206 mg, 61%): mp. 197-198° C. Rf 0.15 (15% methanol in dichloromethane): 1H NMR (DMSO-d6, 300 MHz) δ 8.46 (1H, d, J=8 Hz, NH), 8.18 (1H, t, J=2 Hz, Ar—H), 8.08 (1H, ddd, J=8, 2, 1 Hz, Ar—H), 7.87 (2H, d, J=8 Hz, Ar—H), 7.72 (2H, d, J=8 Hz, Ar—H), 7.54-7.69 (7H, m, Ar—H), 7.35 (2H, d, J=8 Hz, Ar—H), 7.21 (1H, td, J=7, 2 Hz, Ar—H), 7.14 (1H, td, J=7, 2 Hz, Ar—H), 6.71 (1H, d, J=3 Hz, Ar—H), 4.36 (1H, m, CHN), 4.20 (1H, d, J=13 Hz, PhCHHS), 3.84 (1H, d, J=13 Hz, PhCHHS), 3.66 (2H, m, PhCH2CO), 3.11 (1H, dd, J=13, 5 Hz, CHHCHN), 2.99 (1H, dd, J=13, 8 Hz, CHHCHN); ESI-LCMS e/z calcd for C32H27N3O6S 581.646, found 582 (M+H)+, 604 (M+Na)+.

reactant | Sodium perborate tetrahydrate | 0.63 mmol, 97 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | (2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfanyl)-2-[2-(3-nitrophenyl)-acetylamino]-propionic acid | 0.58 mmol, 330 mg | N1(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=C(C=C2)CSC[C@@H](C(=O)O)NC(CC2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C32H27N3O5S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfinyl)-2-[2-(3-nitrophenyl)acetylamino]-propionic acid | 206 mg, 61% | N1(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=C(C=C2)CS(=O)C[C@@H](C(=O)O)NC(CC2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C32H27N3O6S
